Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
lisinopril / CHG
 
Attending: ___.
 
Chief Complaint:
Increasing Weight, Worsening renal function 
 
Major Surgical or Invasive Procedure:
Left ventricular assist device placement with a HeartMate II.

 
History of Present Illness:
 Mr. ___ is a ___ with PMH of NIDCM on home milrinone, 
NIDDM, morbid obesity, with h/o LV thrombosis and STEMI ___ 
coronary thromboembolic disease s/p DES to LAD who presents as a 
direct admission for increasing weight, difficulty with 
diuresis, and worsening renal function. Pt was most recently 
hospitalized at ___ from ___ with cardiogenic 
shock. During that admission, was evaluated with RHC which 
showed elevated CVP and low cardiac index and his milrinone was 
titrated to 0.375mcg/kg/min. An ICD was also placed during that 
admission for primary prevention. Since discharge, patient has 
been followed closely by the CHF service. His weight reportedly 
increased 20lbs since ___ (342lbs to 363lbs) and his 
torsemide was increased to 20mg BID with minimal improvement. 
Patient was also noted to have uptrending Cr, from 1.3 to 1.4 on 
___. Patient was scheduled for weekly labs, which were 
obtained at OSH on ___ which showed (see below): 

Na - 141, K - 4.2, Cl - 105, CO2 - 25, BUN - 16, Creatinine -
1.6, glucose - 90
Total protein - 6.7, albumin - 4.0, total bilirubin - 0.7, 
direct
bilirubin - 0.3, alk phos - 14, ALT - 8
WBC - 4.5, Hgb - 11.3, Hct - 34.9, Platelet count - 203 K/uL

Notably Cr uptrending to 1.6 from more recent baseline 0.9-1.2. 
Decision was made per CHF to admit for IV diuresis and for 
bridging with heparin for RHC (for which the patient is due)  
  
On the floor patient says that he feels well. Complains of 
gaining 20 lbs over the past 2 weeks, but denies change in diet, 
change in medications. Denies dyspnea, dyspnea on exertion, PND, 
orthopnea, lower extremity edema. Denies chest pain, chest 
pressure, syncope, pre-syncope, palpitations. Denies cough, 
dysuria, fever, chills, night sweats. Says he is able to walk 
___ blocks without stopping and is able to ascend a flight of 
stairs with minimal difficulty. Describes his exercise tolerance 
as unchanged from recent. 
 
On review of systems, he denies any prior history of stroke, 
TIA, DVT, PE, bleeding at the time of surgery, myalgias, joint 
pains, cough, hemoptysis, black stools or red stools. All of the 
other review of systems were negative.  
 
Past Medical History:
Morbid Obesity  
Type 2 Diabetes Mellitus  
Hypertension  
Mixed Cardiomyopathy; Systolic Heart Failure with Reduced 
Ejection Fraction  
Myocardial Infarction s/p DES to the LAD (___)  
 
Social History:
___
Family History:
Family history of ESRD in both his father and grandmother. No 
known family history of cardiovascular disease.  

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: ___ BP=95-126/35-50 HR=92-100 RR=20 ___
Weight: 165.4kg
GENERAL: Pleasant ___ male in NAD. Oriented x3. 
Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa.  
NECK: Supple with JVP of 12 cm.  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No murmurs/rubs/gallops. 
LUNGS: Resp were unlabored, no accessory muscle use. No 
crackles, wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.
EXTREMITIES: Warm, well-perfused. No peripheral edema. 
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  

DISCHARGE PHYSICAL EXAM: 
VS: T 98.1-98.5 BP 72-86/D HR ___ RR ___ O2 99-100% on RA
 I/O: ___
 Weight: 160.1kg -> 157.9-->156.7->157.4 --> 
157.9->159.2->158.3-->159.8--> ??.... ?149.7-> 152-> 
149.1->150.1->150.6 --> 151.6 --> 148.9 -> 148.9 -->148.9 kg  
 VAD settings: flow 5.7 speed 9200 PI 6 Power 5.8-5.9  

GENERAL: Obese ___ male, asleep on my exam but 
rouses easily to voice.  Able to move around bed with minimal 
discomfort.  Cooperative with exam.
HEENT: NCAT. Sclera anicteric. 
CHEST: Bandage on left thoracostomy site c/d/I, pain to moderate 
pressure on the left lower chest and mediastinum.  No erythema 
or warmth around the incision site.  
NECK:  JVP about 1cm above clavicle while laying down flat (7cm 
H2O).
CARDIAC: Mechanical whirr of LVAD auscultated throughout.  
Intermittently pulsatile.
LUNGS: Respirations unlabored, no accessory muscle use. Crackles 
bibasilar, stable from yesterday.
ABDOMEN: Soft, nontender to palpation, normoactive bowel sounds. 
 
EXTREMITIES:  Warm, no edema in the lower extremities 
bilaterally.  +1 dorsalis pedis pulses today.
MSK:  No warmth or erythema of the L ankle.  Out of airsplint, 
able to move freely.

 
Pertinent Results:
==========================
ADMISSION LABS
==========================

___ 08:34PM BLOOD WBC-6.8 RBC-4.11* Hgb-11.8* Hct-37.5* 
MCV-91 MCH-28.7 MCHC-31.5* RDW-15.6* RDWSD-51.6* Plt ___
___ 08:34PM BLOOD ___ PTT-38.9* ___
___ 08:34PM BLOOD Glucose-99 UreaN-25* Creat-1.5* Na-141 
K-4.0 Cl-103 HCO3-27 AnGap-15
___ 08:34PM BLOOD ALT-9 AST-16 AlkPhos-78 TotBili-0.7
___ 08:34PM BLOOD Calcium-9.5 Phos-3.5 Mg-1.9
___ 05:11PM BLOOD Type-MIX pO2-32* pCO2-39 pH-7.45 
calTCO2-28 Base XS-2
___ 05:11PM BLOOD Hgb-12.4* calcHCT-37 O2 Sat-56
___ 11:34AM BLOOD Lactate-2.0

==========================
DISCHARGE LABS
==========================

==========================
OTHER IMPORTANT RESULTS 
==========================

___ VAD CORE BIOPSY

- Myocardium with extensive replacement fibrosis (highlighted by 
a trichrome stain) with
subendocardial myocyte sparing: changes consistent with remote 
myocardial infarction.

- There is no evidence of granulomas or granulomatous 
inflammation, amyloid deposition, active myocarditis, acute 
myocardial infarction, or iron deposition.

==========================
IMAGING 
==========================

___ CXR

Compared to chest radiographs from ___.   

Mild interstitial edema has developed at the base the right 
lung, mild 
vascular congestion elsewhere.  Severe cardiomegaly is chronic, 
probably 
worsened.   

Transvenous right ventricular pacer lead in standard placement.  
No 
pneumothorax.   

New right PIC line ends in the right brachiocephalic vein just 
before the 
origin of the SVC, approximately 8.5 cm below the estimated 
location of the superior cavoatrial junction. 

___ TEE

PRE-BYPASS

The patient is in sinus tachycardia and receiving milrinone 0.25 
mcg/kg/min, vasopressin 2.4 units/hr, epinephrine 0.03 
mcg/kg/min, and norepinephrine 0.025 mcg/kg/min.

The left atrium is markedly dilated. No mass/thrombus is seen in 
the left atrium or left atrial appendage. The right atrium is 
moderately dilated, pacing wires are seen in the RA and RV. No 
atrial septal defect or patent foramen ovale is seen by 2D, 
color Doppler or saline contrast with Valsalva maneuvers. The 
left ventricular cavity is severely dilated. Overall left 
ventricular systolic function is severely depressed (LVEF= ___ 
%). No masses or thrombi are seen in the left ventricle. The 
right ventricular cavity is dilated there is mild hypokinesis of 
the RV free wall worsening towards the apex. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion. There is no aortic stenosis. There is trivial aortic 
regurgitation. The mitral valve leaflets are structurally 
normal. Mild (1+) mitral regurgitation is seen. There is mild 
TR. There is no pericardial effusion. 

POST-BYPASS 

The patient is in sinus tachycardia and receiving milrinone 
0.375 mcg/kg/min, vasopressin 2.4 units/hr, epinephrine 0.08 
mcg/kg/min, and norepinephrine 0.03 mcg/kg/min. Inhaled 
epoprostenol is being administered at 0.05 mcg/kg/min. LVAD 
speed is adjusted after separation from cardiopulmonary bypass 
with a final speed of 9000 rpm. 

LV dysfunction remains severe. A well-positioned LVAD inflow 
cannula is seen in the LV apex directed towards the MV opening, 
with inflow velocities < 2.0 m/s. The LVAD outflow cannula is 
appropriately positioned in the ascending aorta with velocities 
< ___ m/s. At an LVAD speed of 9000 rpm the interventricular 
septum was midline to rightward bowing with partial LV 
decompression. The aortic valve remained mostly closed at this 
speed, with occasional partial leaflet opening. 

After discontinuation of cardiopulmonary bypass, the right 
ventricular dysfunction was mild on the noted inotropic support. 
With chest closure, the outflow graft appeared to compress a 
portion of the RV free wall, creating moderate dysfunction; 
however there were no significant changes in hemodynamic 
measurements, SVO2, or CI. 

The thoracic aorta remains intact.

___ TTE

The coronary sinus is dilated (diameter >15mm). Left ventricular 
wall thicknesses and cavity size are normal. There is severe 
global left ventricular hypokinesis (LVEF <20 %). The right 
ventricular cavity is mildly dilated with severe global free 
wall hypokinesis. There is abnormal septal motion/position. The 
aortic valve does not open. The mitral valve appears 
structurally normal with trivial mitral regurgitation. Moderate 
[2+] tricuspid regurgitation is seen. There is no pericardial 
effusion. 

Compared with the prior study (images reviewed) of ___, 
biventricular systolic function is now more depressed, a 
Heartmate is now seen, and the aortic valve no longer opens

___ CTA CORONARY ARTERY WITH 3D W/F

ADDENDUM  In addition to the previously reported findings and 
impression:
An anterior mediastinal hematoma and potential pericardial 
effusion may also
contribute to compression of the anterior wall of the right 
ventricle,
substantial reduction in right ventricular volume, and 
flattening of the
interventricular septum compared to the pre-operative exam in 
___.  The
degree of mediastinal hematoma and pericardial effusion is 
difficult to
distinguish on the current exam.
 
Recommend repeating an echocardiogram to further evaluate, and 
consider
repeating cardiac CTA depending on the patient's current 
clinical status.
 
Correction to the original report:  Smooth, circumferential 
filling defect in
the inflow and outflow LVAD cannula is not partial thrombus but 
rather the
expected CT appearance of the cannula wall.

___ LOWER EXT US 

No evidence of deep venous thrombosis in the right or left lower 
extremity
veins.

___ UPPER EXT US 

Nonocclusive thrombus surrounding the pacemaker lead in the mid 
to distal left
subclavian vein.
 
No evidence of deep vein thrombosis in the right upper extremity 
veins.

___ CT CHEST WITH CONTRAST
 
There is a hyperdense collection measuring 77 x 56 mm in the 
axial plane and
81 Hounsfield units seen in the left lateral chest wall in 
relation to the
serratus anterior muscle with associated air locules and 
surrounding
subcentimeter lymph nodes suggestive of superimposed infection 
(on previous
study done ___ there was a hematoma is seen in the 
left serratus
anterior muscle).  This process is remote from the LVAD.
 
Metallic streak artifact obscures the soft tissue/ pump pocket 
surrounding the
LVAD, but there is no obvious ___ LVAD collection or 
extravasation of
contrast.
 
There is interval improvement in the anterior mediastinal 
hematoma and
hemorrhagic left pleural effusion.
 
A few air locules seen in the right atrium which is thought to 
be secondary to
air injection and not suggestive of mediastinitis.  However if 
the clinical
suspicion for mediastinitis is high then a non contrasted CT may 
be performed
to exclude mediastinal air locules/mediastinitis with absolute 
certainty.
 
The median position of the LVAD outflow tract is again noted 
with mass effect
on the right ventricle, but there is less right atrial 
distention and reflux
of contrast into the hepatic veins compared to immediate 
previous study done
___.

___ ABDOMINAL ULTRASOUND

No focal collection identified in the area of tenderness as 
indicated by the
patient.

 
___ LEFT SHOULDER X RAY 

Normal left shoulder radiographs.

___ CT CHEST WITHOUT CONTRAST

Single air bubble likely within upper margin of the right 
atrium; previously
seen additional air bubbles have resolved.

___ ECHOCARDIOGRAM 

The right ventricular free wall is hypertrophied. The right 
ventricular cavity is dilated with severe global free wall 
hypokinesis. Trace aortic regurgitation is seen. Severe [4+] 
tricuspid regurgitation is seen. [In the setting of at least 
moderate to severe tricuspid regurgitation, the estimated 
pulmonary artery systolic pressure may be underestimated due to 
a very high right atrial pressure.] 

Intermittent aortic valve opening is seen at 9200 RPM. At all 
higher pump speeds, little or no aortic valve opening is seen. 
The interventricular septum is in a leftward displaced 
configuration at all speeds higher than 9200 RPM (neutral at 
9000 and 9200 RPM), with severe tricuspid regurgitation and 
right ventricular dilation at all speeds. 

___ CT HEAD (episode of unresponsiveness)
 
There is no evidence of infarction, hemorrhage, edema, or mass.  
The
ventricles and sulci are normal in size and configuration.
 
There is no evidence of fracture.  A mucous retention cyst is 
seen in the
right maxillary sinus.  Remaining visualized paranasal sinuses, 
mastoid air
cells, and middle ear cavities are clear.  The globes are 
unremarkable.
 
IMPRESSION:

1. Normal study.

==========================
STUDIES
==========================

==========================
OPERATIVE REPORTS
==========================

___ LVAD PLACEMENT 

Surgeon:  ___, ___

PREOPERATIVE DIAGNOSIS:  Nonischemic cardiomyopathy.

POSTOPERATIVE DIAGNOSIS:  Nonischemic cardiomyopathy.

PROCEDURE:  Left ventricular assist device placement with a
HeartMate II.

ASSISTANT:  ___-C.

ANESTHESIA:  General.

PUMP TIME:  69 minutes.

COMPLICATIONS:  None.

INDICATIONS:  This is a ___ male with idiopathic
cardiomyopathy with progressively worsening symptoms.  He
required milrinone therapy and diuresis for optimization.  He 
was
not a candidate for a heart transplant due to his
morbid obesity.  I was asked to evaluate him for
consideration of LVAD destination therapy.  The risks and
benefits of the operation were discussed with the patient, he
consented to proceed.

DESCRIPTION OF PROCEDURE:  After the patient was placed under
anesthesia and intubated, his chest, abdomen, and lower
extremities were prepped with chlorhexidine and draped in the
usual fashion.  The intraoperative transesophageal
echocardiogram showed that his left ventricular function had
an ejection fraction of 10% to 20%.  He had a dilated right
ventricular cavity with mild global right ventricular free
wall hypokinesis.  He had mild mitral regurgitation and trace
aortic regurgitation.  There was no PFO.

A median sternotomy was made.  The incision was extended a
couple centimeters below the xiphoid process.  The
preperitoneal pocket was created and the pericardium was
opened up.  The patient was fully heparinized prior to
inserting the aortic cannula and a venous cannula into the
right atrial appendage.  We went on bypass.  I elevated the
left ventricular apex and identified the dimpled portion.  I
cored out the LV apex and anchored the apical sewing ring with
pledgeted ___ Ethibond sutures.  BioGlue was then sprayed around
the raw surface and around the suture line.  The pump was then
attached to the apical sewing ring and tied down with a heavy
suture and fastened with a silastic strap for reinforcement.  
The
outflow graft was then connected up to the pump.  A side-biting
clamp was placed on the proximal ascending aorta and the graft
was measured and cut appropriately at a beveled angle.
Longitudinal aortotomy was made and the outflow graft was
then sewn to the aorta with running ___ Prolene sutures.  A
de-airing needle was placed into the graft.  The drive line,
which had been brought out through the left side of the 
abdominal wall, was then connected up to the controller.  We
started at 6000 rpm.  The patient was ventilated.  The
side-biting clamp was released.  As we came down on the
cardiopulmonary bypass machine, we went up on the rpm of the
pump.  There was minimal air seen on the echocardiogram. The
apical ring was in good position. With the assistance from 
the echocardiogram, we adjusted the rpm until the left
ventricular cavity was adequately decompressed.  The
intraventricular septum was midline.  The right ventricular
dysfunction was mild with some inotropic support.  Protamine
was given to reverse heparin.  The cannulas were removed.
Three chest tubes were inserted, one in the left apical/left
pleural space and two in the anterior mediastinum.  A piece of
Gortex tube graft was used to cover the outflow graft. The
pericardium was reapproximated around the aorta and the right
ventricle and the remaining opening was covered with
CorMatrix.  The sternum was closed with stainless steel
wires.  The rectus fascia and the subcutaneous tissues were
closed in 2 layers with running Vicryl sutures.  The skin was
closed with running subcuticular Monocryl sutures.  Prevena
was placed over the incision.  The patient left the
operating room, intubated and in stable condition, on
inotropes and pressors.

___ LEFT CHEST TUBE INSERTION

COMPLICATIONS:  None.

INDICATIONS:  This is a ___ male who underwent
placement of an LVAD on ___.  Postoperatively, he
developed a large left pleural effusion.  I recommended
draining his effusion and discussed the risks and benefits of
a chest tube insertion with the patient.

DESCRIPTION OF PROCEDURE:  Patient was placed in a slight
right lateral decubitus position.  His left chest was prepped
with chlorhexidine and draped in the usual fashion.  1%
lidocaine was used to infiltrate the subcutaneous tissues, as
well as the intercostal area.  An incision was made.
Dissection was carried down into the chest wall.  I entered
the interspace and inserted a ___ angled chest tube,
angled posteriorly.  The fluid that we got back was
serosanguineous in nature.  A total of 1090 cc of fluid was
drained.  The chest tube was anchored down with silk sutures
and a dressing was applied.  The patient tolerated the
procedure.

==========================
MICRO
==========================

___ blood cultures:  No growth.

___ and ___ CATH TIP: NO GROWTH 

___ - ___, multiple sets of blood cultures all 
negative/NGTD. 

___ and ___ STOOL: Negative for toxigenic C. difficile 
by the Illumigene DNA amplification assay. (Reference 
Range-Negative). 

___ 1:01 pm JOINT FLUID Source: shoulder.  GRAM STAIN 
(Final ___: NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. NO 
MICROORGANISMS SEEN. FLUID CULTURE (Preliminary):    NO GROWTH. 
 
Brief Hospital Course:
*******TRANSITIONAL ISSUES************
# CODE: Full Code  
# CONTACT: Patient, Mother ___  
# LVAD placed on ___
# Not a candidate for transplant given his morbid obesity
# Discharge weight: 148.9 kg
# Discharging on 5mg warfarin, has been therapeutic.
# Pt to be visited by home ___.  Cannot receive fingerstick 
INR's; must be drawn by venipuncture only.  
# Results to be faxed to ___
# Any questions, call ___ clinic at:  ___.

___ year old man with NIDDM, Morbid Obesity, Hypertension and 
HFrEF (LVEF 15% in ___ with MI/LV thrombosis s/p PCI with 
DES to the LAD who is admitted with weight gain of 10kg over 
past month and elevated JVP. He was medically optimized in the 
CCU prior to LVAD placement on ___.  His post-operative 
course was complicated by a large left hemothorax (s/p chest 
tube drainage), SVT/rapid afib (s/p cardioversion and 
amiodarone/digoxin initiation), concerns for mediastinitis 
(treated with vancomycin, cefipime, and metronidazole), and 
difficult to control left ankle and left shoulder pain (s/p 
negative arthrocentesis treated empirically for possible gout 
flare).  

===================
PRE-HOSPITAL COURSE
===================

___ NICMP/ICMP LVEF ___ s/p ICD ___. Patient with h/o of 
ICMP with negative workup. ___ INOGEN ICD placed 
in ___. Patient initially presented to ___ Heart Failure 
clinic with weight increase of 20lbs since early ___. At that 
point his torsemide dose was increased from 10mg BID to 20mg BID 
on ___. He presented for follow-up on ___ and labs 
were sent which showed increase in creatinine from 1.2 to 1.6. 
Patient denies dyspnea, dyspnea on exertion, or decreased 
exercise tolerance. No crackles, and no peripheral edema, 
however JVP elevated to 12cm. Weight is up from 155kg in ___ 
to 165kg. The patient was diuresed with 80mg IV furosemide with 
improvement. He was continued on home valsartan and milrinone.

===================
PRE LVAD CCU COURSE
===================

He was transferred to the CCU on ___ for swan measurement to 
titrate medications in preparation for LVAD placement.  In the 
CCU, a Swan Ganz catheter was placed on ___. Once the Swan was 
in place, his PICC was removed and fluid from the tip was sent 
for culture, due to concerns that he may have had some puruluent 
drainage from the insertion site. This showed no growth. He was 
diuresed with Lasix 80mg IV as appropriate and his 
Spironolactone was increased to 50mg daily. His Metoprolol was 
discontinued.  In preparation for surgery, his Swan was removed 
on ___, and his Valsartan was held after the evening dose on 
___ due to concerns for vasoplegia intraoperatively. In place 
of the Valsartan, he was started on Isordil and Hydralazine for 
afterload reduction. His spironolactone was stopped on ___, 
after his creatinine was noted to increase from 1.2 to 1.9. He 
had been diuresed -700cc the day prior. He also had his 
pacemaker interrogated by EP on ___, the settings were changed 
from VVIR to Ventricular Tachy Mode.

====================
POST LVAD CCU COURSE
====================

On ___, he went to the OR for LVAD Heartmate 2 placement (not a 
transplant candidate to do high BMI).  Overall the patient 
tolerated the procedure well and post-operatively was 
transferred to the CVICU on Epi/milrinone/valetri/Vasopressin. 
He was initially coagulopathic, received platelets and PRBC. Had 
bloody OGT drainage which was irrigated,  and he was switched to 
protonix. He developed hyperkalemic but responded to insulin and 
Lasix.  Bleeding continued for few days requiring frequent 
transfusion. Source not identified. Heparin was held for period 
then restarted once hct stabilized.  POD 1 found the patient 
extubated, alert and oriented and breathing comfortably with 
CPAP and valetri continued.   The patient was neurologically 
intact and slow weaned off pressors and epi. He was started on 
sildenafil. Milrinone was slowly weaned down. There was concern 
that outflow graft was causing  RV compression. TEE unable to be 
done due to inability to  lay flat and worsening SOB. He 
therefore underwent CTA which showed large left hemothorax. CT 
was placed by Dr. ___ 1200cc serosanguinous drainage. He 
developed SVT/rapid afib. Started on amiodarone and digoxin. He 
continue to have poor rate control and was successfully 
cardioverted to SR 110 on POD#7. He continue to make progress 
despite the concern of RV compression and tolerated slow 
milrinone wean. He was initially aggressively diuresed but had 
multiple sxn events and VAD speed and volume status was 
adjusted. He currently tolerating gentle diuresis. Stable renal 
function.   The patient was transferred to the advanced heart 
failure service on POD 8.  Chest tubes and pacing wires were 
discontinued without complication.

=====================================
ADVANCED HEART FAILURE SERVICE COURSE 
=====================================

#Acute on chronic systolic heart failure exacerbation:
- Preload: Torsemide ..........
- Afterload: sildenafil for RV afterload, losartan for LV 
afterload
- Neurohormonal blockade: none
- Contractility: digoxin for RV support
- Device: LVAD with settings of .........  Anticoagulation as 
per below (#Afib).

#Chest pain:  Severe tenderness of the left anterior lower chest 
wall with low grade fevers, leukocytosis, thrombocytosis, and 
elevated CRP.  Driveline site appeared non-inflamed without 
drainage.  CT of chest demonstrated gas in chest wall concerning 
for mediastinitis.  Washout deferred by CT.  ID was consulted, 
and recommended 10d course of vanc/cefepime/metronidazole 
(completed on ___.  CRP downtrended, leukocytosis improved, 
and Pt was afebrile prior to discharge.  

#Left shoulder pain and # L ankle pain:  Arthrocentesis of L 
shoulder with negative Gram stain, crystals, WBC's.  Treated 
empirically for gout with colchicine and home allopurinol.  
Colchicine discontinued on ___.  Pt with resolved shoulder and 
ankle pain prior to discharge.

#Atrial fibrillation: Remained in NSR. 
- Rate control: continued digoxin
- Rhythm control: s/p electrical cardioversion in CCU, continued 
on amiodarone
- Thromboembolism ppx: warfarin 5mg

# History of LV thrombus and likely cardioembolic STEMI: 
Hypercoagulability workup in past negative. Presumed ___ to 
dilated cardiomyopathy and poor flow. Patient maintianed on 
anticoagulation given LVAD placement. No statin given lack of 
coronary artery disease.  Continued on warfarin 5mg as above.

# Obesity:  Not a transplant candidate until he can lose some 
weight.  Deferred nutrition consult in house, may need nutrition 
support as outpatient. 

# OSA:  Patient with sleep apnea for which he uses CPAP at home. 
He was continued on home CPAP 

# Vitamin D deficiency: continue on home vitamin D 
supplementation

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Valsartan 80 mg PO BID 
2. Allopurinol ___ mg PO DAILY 
3. Colchicine 0.6 mg PO DAILY 
4. Metoprolol Succinate XL 25 mg PO BID 
5. Milrinone 0.375 mcg/kg/min IV DRIP INFUSION 
6. Warfarin 5 mg PO DAILY16 
7. Torsemide 20 mg PO BID 
8. Spironolactone 25 mg PO DAILY 
9. TraMADol 50 mg PO Q6H:PRN Pain - Moderate 
10. Clopidogrel 75 mg PO DAILY 
11. Aspirin 81 mg PO DAILY 
12. Alteplase 1mg/2mL ( Clearance ie. PICC, tunneled access line 
) 1 mg IV ONCE 
13. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Amiodarone 200 mg PO DAILY 
RX *amiodarone 200 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
2.  ClonazePAM 0.5 mg PO BID 
RX *clonazepam 0.5 mg 1 tablet(s) by mouth twice daily Disp #*30 
Tablet Refills:*0 
3.  Digoxin 0.0625 mg PO DAILY 
RX *digoxin 125 mcg 0.5 (One half) tablet(s) by mouth daily Disp 
#*15 Tablet Refills:*0 
4.  Losartan Potassium 25 mg PO DAILY 
RX *losartan 25 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
5.  Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
6.  Sildenafil 20 mg PO TID 
RX *sildenafil 20 mg 1 tablet(s) by mouth three times per day 
Disp #*90 Tablet Refills:*0 
7.  Sildenafil 20 mg PO TID Duration: 3 Days 
Emergency supply from hospital pharmacy until patient receives 
mailed Rx. 
RX *sildenafil 20 mg 1 tablet(s) by mouth three times per day 
Disp #*9 Tablet Refills:*0 
8.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth daily 
Disp #*30 Tablet Refills:*0 
9.  Vitamin D ___ UNIT PO 1X/WEEK (WE) 
RX *ergocalciferol (vitamin D2) 50,000 unit 1 capsule(s) by 
mouth every ___ Disp #*6 Capsule Refills:*0 
10.  Allopurinol ___ mg PO DAILY 
RX *allopurinol ___ mg 1.5 tablet(s) by mouth daily Disp #*60 
Tablet Refills:*0 
11.  Aspirin 325 mg PO DAILY 
RX *aspirin 325 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
12.  Warfarin 5 mg PO DAILY16 
RX *warfarin 2.5 mg 2 tablet(s) by mouth daily Disp #*60 Tablet 
Refills:*0 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY:
Non-ischemic dilated cardiomyopathy 
Possible left serratus anterior infection
Possible mediastinitis
Gout, acute on chronic
Heart failure with reduced ejection fraction
LVAD placement
Gout
Atrial fibrillation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

Incisions: 
Sternal - healing well, no erythema or drainage 
Driveline - dressing to be changed every ___ and ___ 
under strict asceptic technique by  his mother only (Blue 
centurion driveline management system)
Pain - PRN medications

 
Discharge Instructions:
Each morning you should weigh yourself and take your temperature 
these should be written down in the LVAD binder with your VAD 
parameters.  
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___

**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
 
Followup Instructions:
___